US07612078B2
N-(1-(3-Chlorobenzyl)piperidin-4-yl)-6-chlorothieno[2,3-d]pyrimidin-4-amine
The title compound was prepared (70 mg, 43%) from 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine (110 mg, 0.41 mmol) and 1-(bromomethyl)-3-chlorobenzene (93 mg, 0.45 mmol) by following the general procedure described for Preparation 12. 1H NMR (400 MHz, CDCl3): δ 8.45 (s, 1H), 7.35 (s, 1H), 7.10 (m, 4H), 5.25 (d, 1H), 4.20 (m, 1H), 3.50 (s, 2H), 2.90 (m, 2H), 2.35 (m, 2H), 2.10 (m, 2H), 1.60 (m, 2H). MS (ESI) m/z: Calculated: 392.06; Observed: 393.2 (M++1).

reactant | 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine | 0.41 mmol, 110 mg | ClC1=CC2=C(N=CN=C2NC2CCNCC2)S1 | C11H13ClN4S
reactant | 1-(bromomethyl)-3-chlorobenzene | 0.45 mmol, 93 mg | BrCC1=CC(=CC=C1)Cl | C7H6BrCl
product | N-(1-(3-Chlorobenzyl)piperidin-4-yl)-6-chlorothieno[2,3-d]pyrimidin-4-amine | ClC=1C=C(CN2CCC(CC2)NC=2C3=C(N=CN2)SC(=C3)Cl)C=CC1 | C18H18Cl2N4S
